US06362177B1
A mixture of 3-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine (860 mg, 3.8 mmol), Et3N (5.7 mmol), N-tert-butoxycarbonylglycine (704 mg), EDCI (594 mg), HOBt (673 mg), and dichloromethane (20 mL) was stirred at room temperature for 15 h. Dichloromethane (50 mL) was added and the solution was washed with 2 N NaOH solution (50 mL×2), dried over anhydrous sodium sulfate, filtered, and concentrated to afford 3-[{N-(tert-butoxycarbonyl)glycyl)aminomethyl]-1-(4-chlorobenzyl)pyrrolidine (1.31 g, 90%).

reactant | 3-(aminomethyl)-1-(4-chlorobenzyl)pyrrolidine | 3.8 mmol, 860 mg | NCC1CN(CC1)CC1=CC=C(C=C1)Cl | C12H17ClN2
reactant | Et3N | 5.7 mmol | CCN(CC)CC | C6H15N
reactant | N-tert-butoxycarbonylglycine | 704 mg | C(C)(C)(C)OC(=O)NCC(=O)O | C7H13NO4
reactant | EDCI | 594 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 673 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-[{N-(tert-butoxycarbonyl)glycyl)aminomethyl]-1-(4-chlorobenzyl)pyrrolidine | 1.31 g, 90% | C(C)(C)(C)OC(=O)NCC(=O)NCC1CN(CC1)CC1=CC=C(C=C1)Cl | C19H28ClN3O3
